US06734191B2
A solution of 2-nitroaniline (0.41 g, 3.0 mmol) and methyl 4-chlorocarbonyl benzoate (0.65 g, 3.3 mmol) in THF (3.7 mL) and pyridine (0.8 mL) was stirred for 2 h at room temperature. The reaction was diluted with saturated sodium bicarbonate (10 mL) and EtOAc (15 mL), the phases separated and the aqueous phase extracted with EtOAc (2×10 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to afford (2-nitrophenyl)-terephthalamic acid methyl ester as a yellow solid (0.70 g, 78%). 1H NMR (CDCl3) δ3.97 (s, 3H), 7.25 (t, 1H, J=7.8 Hz), 7.74 (t, 1H, J=7.8 Hz), 8.04 (d, 2H, J=7.8 Hz), 8.20 (s, 1H (NH)), 8.20 (d, 2H, J=7.8 Hz), 8.3 (d, 1H, J=7.8 Hz), 8.99 (d, 1H, J=7.8 Hz).

reactant | 2-nitroaniline | 3.0 mmol, 0.41 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | methyl 4-chlorocarbonyl benzoate | 3.3 mmol, 0.65 g | COC(=O)C1=CC=C(C=C1)C(=O)Cl | C9H7ClO3
reactant | pyridine | 0.8 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 3.7 mL | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | (2-nitrophenyl)-terephthalamic acid methyl ester | 0.70 g, 78% | COC(C1=C(C=C(C(=O)N)C=C1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H12N2O5
